US07981874B2
(2E)3-[3-(dimethoxyphosphoryl)phenyl]acrylic acid.
tert-butyl (2E)-3-[3-(dimethoxyphosphoryl)phenyl]acrylate was dissolved in dichloromethane (6 ml). TFA (3 ml, 38.9 mmol) was added. The reaction was allowed to stir for approximately one and a half hours. The reaction was complete as indicated by LCMS. The reaction was diluted with DCM and washed with brine. The aqueous layer was extracted three times with DCM. The combined organic layer was dried over Na2SO42, filtered, and concentrated. MS: calc'd 257 (MH+), exp 257 (MH+)

reactant | tert-butyl (2E)-3-[3-(dimethoxyphosphoryl)phenyl]acrylate | COP(=O)(OC)C=1C=C(C=CC1)/C=C/C(=O)OC(C)(C)C | C15H21O5P
reactant | TFA | 38.9 mmol, 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2E)3-[3-(dimethoxyphosphoryl)phenyl]acrylic acid | COP(=O)(OC)C=1C=C(C=CC1)/C=C/C(=O)O | C11H13O5P
